* BigBubbleMuff -- V7C/V8 Russian "Bubble Font" Big Muff Pi, reference netlist for ngspice.
* SPDX-License-Identifier: MIT
*
* Transcribed from docs/netlist.md (the single source of truth); node names match it.
* Knobs are 0..1 (0 = fully CCW). Pot split: pin3-wiper = (1-k)*P, wiper-pin1 = k*P,
* each clamped to >= 1 ohm. Device models QBM (NPN) and DBM (diode) come from
* models-em.lib or models-gp.lib, included by the top-level deck.
*
* Ports: IN (input jack), OUT (volume wiper, loaded by RLOAD 1 Mohm), VCC (+9 V rail).
.subckt bigmuff IN OUT VCC params: sus=0.75 tone=0.5 vol=0.5
* --- input --------------------------------------------------------------------
R2   IN   N1   39k
C1   N1   B4   0.1u
* --- Q4 input booster --------------------------------------------------------
Q4   C4   B4   E4   QBM
R14  B4   0    100k
R9   C4   B4   470k
C10  C4   B4   470p
R13  VCC  C4   12k
R22  E4   0    390
C4   C4   S3   0.1u
* --- SUSTAIN (R24 100k lin) + R23 1k ground leg ---------------------------------
R24a S3   S2   {max(1, (1-sus)*100k)}
R24b S2   S1   {max(1, sus*100k)}
R23  S1   0    1k
C5   S2   N5   0.1u
R19  N5   B3   10k
* --- Q3 clipping stage 1 -------------------------------------------------------
Q3   C3   B3   E3   QBM
R20  B3   0    100k
R17  C3   B3   470k
C12  C3   B3   470p
C6   B3   D3N  0.047u
D3   D3N  C3   DBM
D4   C3   D3N  DBM
R18  VCC  C3   12k
R21  E3   0    390
C13  C3   N13  0.1u
R12  N13  B2   10k
* --- Q2 clipping stage 2 -------------------------------------------------------
Q2   C2   B2   E2   QBM
R16  B2   0    100k
R15  C2   B2   470k
C11  C2   B2   470p
C7   B2   D2N  0.047u
D2   D2N  C2   DBM
D1   C2   D2N  DBM
R11  VCC  C2   12k
R10  E2   0    390
* --- TONE (R25 100k lin) --------------------------------------------------------
C9   C2   T3   0.0039u
R5   T3   0    22k
R8   C2   T1   20k
C8   T1   0    0.01u
R25a T3   T2   {max(1, (1-tone)*100k)}
R25b T2   T1   {max(1, tone*100k)}
C3   T2   B1   0.1u
* --- Q1 output stage -----------------------------------------------------------
Q1   C1   B1   E1   QBM
R7   VCC  B1   470k
R3   B1   0    100k
R6   VCC  C1   10k
R4   E1   0    2.7k
C2   C1   V3   0.1u
* --- VOLUME (R26 100k lin) -------------------------------------------------------
R26a V3   OUT  {max(1, (1-vol)*100k)}
R26b OUT  0    {max(1, vol*100k)}
* --- boundary condition (docs/netlist.md "Model boundary conditions") ---------------
* The amp input the pedal drives. Part of the model's definition, so every analysis
* and the engine see the same load.
RLOAD OUT 0    1Meg
.ends bigmuff
